US09382226B2
To the solution of compound 5-chloro-4-fluoro-N1-methylbenzene-1 2-diamine (0.3 g, 0.00172 mol) and 4-trifluoromethylnicotinic acid (0.36 g, 0.00189 mol) in DMF (5 ml) was added EDC-HCl (0.27 g, 0.00206 mol) followed by HOBt (0.39 g, 0.00206 mol) and Et3N (0.047 g, 0.00344 mol). Reaction mixture was heated at 80° C. for 12 h. Reaction mass was quenched with ice water and layers were separated. The aqueous layer was extracted with EtOAc (3×10 ml). The combined organic extracts were washed with sat NaHCO3 solution and brine dried over Na2SO4 and concentrated to get crude product which was purified by column chromatography to provide N-(4-chloro-5-fluoro-2-(methyl amino)phenyl)-4-(tri-fluoromethyl)nicotinamide as a brown colored solid. 1H NMR (400 MHz, DMSO-d6), δ: 10.08 (s, 1H), 9.20 (s, 1H), 8.99-8.98 (d, J=4.8 Hz, 1H), 8.75-8.74 (d, J=4.8 Hz, 1H), 7.91-7.89 (d, J=5.2 Hz, 1H), 7.39-7.37 (d, J=10.4 Hz, 1H), 6.72-6.71 (d, J=7.2 Hz, 1H), 5.36 (bs, 1H), 2.74-2.73 (d, J=4.0 Hz, 3H). MS (M+1): 348.12.

reactant | 5-chloro-4-fluoro-N1-methylbenzene-1 2-diamine | 0.00172 mol, 0.3 g | ClC1=C(C=C(C(=C1)NC)N)F | C7H8ClFN2
reactant | 4-trifluoromethylnicotinic acid | 0.00189 mol, 0.36 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | EDC-HCl | 0.00206 mol, 0.27 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.00206 mol, 0.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.00344 mol, 0.047 g | CCN(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(4-chloro-5-fluoro-2-(methyl amino)phenyl)-4-(tri-fluoromethyl)nicotinamide | ClC1=CC(=C(C=C1F)NC(C1=CN=CC=C1C(F)(F)F)=O)NC | C14H10ClF4N3O
